US07368572B2
To a solution of triphenylphosphine (6.5 g, 24.6 mmol) in anhydrous THF (20 ml) was added DIAD (4.8 ml, 24.6 mmol). The solution was stirred until a white precipitate was formed (2 to 10 min). After additional 60 min, a solution of ethyl N-Boc-5-hydroxy-indole-2-carboxylate (5.0 g, 16.4 mmol) and 1-methoxyethanol (1.3 ml, 16.4 mmol) in THF (20 ml) was added and stirring was continued for 16 h. The reaction mixture was concentrated in vacuo and the residue was suspended in diethyl ether (150 ml). The precipitate was filtered off and the filtrate was concentrated in vacuo. The residue was suspended in hexane and the generated precipitate was filtered off. The filtrated was concentrated in vacuo and purified by flash chromatography over silica gel with ethyl acetate/hexanes (4/1) to provide ethyl N-Boc-5-(2-methoxyethoxy)-indole-2-carboxylate (3.2 g, 8.8 mmol) as a white solid.

reactant | triphenylphosphine | 24.6 mmol, 6.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 24.6 mmol, 4.8 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | ethyl N-Boc-5-hydroxy-indole-2-carboxylate | 16.4 mmol, 5.0 g | C(=O)(OC(C)(C)C)N1C(=CC2=CC(=CC=C12)O)C(=O)OCC | C16H19NO5
reactant | 1-methoxyethanol | 16.4 mmol, 1.3 ml | COC(C)O | C3H8O2
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | ethyl N-Boc-5-(2-methoxyethoxy)-indole-2-carboxylate | 8.8 mmol, 3.2 g | C(=O)(OC(C)(C)C)N1C(=CC2=CC(=CC=C12)OCCOC)C(=O)OCC | C19H25NO6
